US08557805B2
5-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide
To a solution of 5-{[6-(methylsulfonylmethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid (4.9 g) in N,N-dimethylformamide (20 mL) were added 1-hydroxybenzotriazole monohydrate (2.68 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.3 g), and 25% aqueous ammonia (15 mL), and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) to give the title compound (3.0 g, yield 58%) as pale-yellow crystals.

reactant | 5-{[6-(methylsulfonylmethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid | 4.9 g | CS(=O)(=O)CC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)O | C21H22N2O7S
reactant | 1-hydroxybenzotriazole monohydrate | 2.68 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.3 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | 15 mL | N | H3N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide | 3.0 g, yield 58% | CS(=O)(=O)CC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)N | C21H23N3O6S
